Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
VATS with pleural biopsy 
 
History of Present Illness:
 The patient is a ___ year old ___ male with +PPD and 
recurrent right sided ___ transferred to medicine 
service s/p VATS and pleural biopsy for suspected tuberculosis 
pleuritis.  Thoracentesis performed on ___ demonstrated 
lymphocitic predomination,exudative effusion which was AFB 
negative and with ___ 50.  He was re-admitted on ___ for 
pleural biopsy, which was performed on ___.  The intraoperative 
report demonstrated very inflamed parietal pleura with multiple 
small soft pleural nodules that were subcentimeter in size.  
Pathology of the biopsy is pending. He tolerated the procedure 
fine but the following day he had a syncopal episode with 
trigger (HR 40's, SBP 60/40) that resolved rapidly with fluid 
bolus. He currently denies pain, SOB, cough. Complains only of 
mild sore throat s/p intubation.  Urinary retention following 
procedure resolving.  

 
Past Medical History:
Recurrent pleural effusion
Hepatitis B positive (Ag positive ___
Reports HIV negative recently and in ___.  
Prior c/o GERD, with EGD ___
Positive PPD 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals - Afebrile 
GENERAL: NAD, sitting up in bed pleasant 
HEENT:  oropharynx clear
CARDIAC:  S1, S2, ___ murmur heart throughout the precordium
LUNG:  decreased breath sounds left lung base 
ABDOMEN:  soft, nontender, slight distension
EXT:  chest tube site clean and dry and intact covered w/ 
tegaderm, open w/ no stitches in place 
NEURO:  AOx3

 
Pertinent Results:
LABORATORY:  (___)
CBC: WBC 8.3, Hgb 13.8, PLT 329
Chem: Cr 0.8, gluc 107, remainder unremarkable
Liver (___): AST 30, ALT 42, AP 82, tbili 0.3
      (___): AST 19, ALT 26, AP 70, tbili 0.5
LDH 191 (___)
INR 1.3

___:
TSH 0.53, FT4 1.2
___: negative
RF: 7
PSA, AFP: wnl
ACE: 67 (___)
Strongy Ab -
** HBV SAg +, SAb -, CAb +, eAb +, eAg -; viral load 143
   HAV Ab +

Pleural fluid (___):
tprot 5.7 (7.8 ___, LDH 338 (191)
RBC 4550, WBC 3175 (P5 L88 M9 E1 Meso1)
___ 47.9
TB PCR  NEG

Urinalysis ___: dipstick negative

Pleural fluid cytology, ___: NEGATIVE FOR MALIGNANT CELLS.
Tissue pathology (pleural), ___: pending

CULTURES: 

BCx ___ x2, ___ x2: NEG
BCx ___ x2: ngtd
------
Sputum AFB, ___:
   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 
   ACID FAST CULTURE (Preliminary): 
Pleural fluid, ___:
   GRAM STAIN (Final ___: no PMN, no orgs
   FLUID CULTURE (Final ___:    NO GROWTH. 
   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
   ACID FAST SMEAR (Final ___: DIRECT SMEAR NEG
   ACID FAST CULTURE (Preliminary): 
Pleural fluid, ___:
   GRAM STAIN (Final ___: 1+ PMN, no orgs
   FLUID CULTURE (Preliminary):    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
   POTASSIUM HYDROXIDE PREPARATION (Final ___: NEG
   ACID FAST SMEAR (Final ___: DIRECT SMEAR NEG
   ACID FAST CULTURE (Preliminary): 
PLEURAL TISSUE, ___:
   GRAM STAIN (Final ___: 2+ PMN, no orgs
   TISSUE (Preliminary):    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
   POTASSIUM HYDROXIDE PREPARATION (Final ___: NEG
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST SMEAR (Final ___: MANY SEEN ON DIRECT SMEAR. 
   ACID FAST CULTURE (Preliminary): 
Pleural fluid, ___:
   ACID FAST SMEAR (Pending): 
   ACID FAST CULTURE (Pending): 

IMAGING:  

CT CHEST W/O (___): 
"1. Moderate right pleural effusion with no underlying pneumonic
infiltrate. Mild atelectasis of the right lung base is noted. 
2. Unchanged calcified granulomas of the lung bases."

CXR PA&lat (___): "continued substantial right pleural effusion
with opacification above that most likely represents 
atelectasis"

CXR AP (___): "Right chest tube terminates at the apex.
Small-to-moderate right basilar lateral pneumothorax is present
as well as adjacent basilar atelectasis. Right pleural effusion
has nearly resolved. Subcutaneous emphysema is present in the
right chest wall. Cardiomediastinal contours are within normal
limits. The left lung is remarkable for patchy and linear
atelectasis at the base."

CXR AP (___):  "The previously demonstrated pneumothorax is not
seen on the current study but there is increase in pleural
effusion that may be accumulating in the pleural space at least
partially obscuring the pneumothorax. The position of the right
chest tube is unchanged. Mediastinal position, contour and width
are stable. Bibasal atelectasis is unchanged. No evidence of
pulmonary edema is present."

CXR PA&lat (___): prelim = "Small hydropneumothorax following
right chest tube removal."

CXR PA&lat (___): read pending.  Decreased R pleural effusion. 
No sig increase in hydropneumothorax.  Mildly dilated colon.

 
Brief Hospital Course:
1.  Pleural Tuberculosis - The patient has a history of 
recurrent right sided pleural effusions and a positive PPD. He 
was electively admitted on ___ for elective VATS and pleural 
biopsy on ___.   The pleural biopsy  revealed many AFB, an 
inflamed parietal and visceral pleural with mulitple 
subcentimeter "small soft pleural nodules" was consistent with 
tuberculosis. Cultures are currently pending.  The infectious 
disease team was consulted.   The above constituted sufficient 
evidence to begin 4 drug treatment for pleural (non-parenchymal) 
tuberculosis.  He was not on respiratory precautions at D/C.  
The patient had LFT drawn before treatment was initiated and the 
results were normal.  An appointment was made for an outpatient 
ophthalmology exam as the patient will be on ethambutol.  The 
DPH was contacted and a report for suspicion of TB was sent. The 
patient will follow up with the ___ health department in 
___ for treatment surveillance.  The patient will follow up 
w/ Dr. ___ on ___. 

2.  Hepatitis C - The patient is hepatitis C positive with 
undetectable viral load.  The decision was made to defer 
treatment with antivirals at this time.  The patient will follow 
up with Dr. ___ on ___. 

3.  Orthostatic hypotension.  On ___ am, when getting out of 
bed to chair, he felt nauseated, emesis, and lost consciousness. 
 Per trigger note, HR ___, SBP 60/40, POx 98%, "can't breathe", 
diaphoretic; rapidly resolved after IVF, without recurrence of 
symptoms or vitals instability since that time.  Orthostatic BP 
measurements were taken and the patients HR increased by 28 BPM 
when going from supine to standing position.  The patient was 
given 2L of fluids. Repeat orthostatic measurements were normal. 


4.  Urinary retention - The patient experienced transient 
urinary retention This was likely secondary to opioid pain 
medication s/p VATS procedure. UA was negative.  A single dose 
of tamsulosin was given.  The symptoms resolved within ___ 
hours. 

 
Medications on Admission:
DIPHENHYDRAMINE-ACETAMINOPHEN [TYLENOL DAY & NIGHT] - 
(Prescribed by Other Provider; Takes PRN per pt.) - Dosage
uncertain
GUAIFENESIN [ROBITUSSIN CHEST CONGESTION] -  (Prescribed by 
Other
Provider; Per pt taking.) - Dosage uncertain
 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain : please do not drive or 
operate heavy machinery with this medication as it can make you 
sleepy.
Disp:*15 Tablet(s)* Refills:*0*
2. Senna 8.6 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*20 Capsule(s)* Refills:*0*
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*20 Capsule(s)* Refills:*0*
4. Outpatient Lab Work
Pleae have the following labs drawn weekly: LFTs, BUN/Cr, and 
CBC.  The results must be faxed to ___ at ___, attn: Dr 
___ ___
5. Isoniazid ___ mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for Tuberculosis.
Disp:*60 Tablet(s)* Refills:*1*
6. Rifampin 300 mg Capsule Sig: Two (2) Capsule PO Q24H (every 
24 hours) as needed for Tuberculosis.
Disp:*120 Capsule(s)* Refills:*1*
7. Pyrazinamide 500 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) as needed for TB.
Disp:*180 Tablet(s)* Refills:*1*
8. Ethambutol 400 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) as needed for TB.
Disp:*180 Tablet(s)* Refills:*1*
9. Pyridoxine 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*120 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Pleural Tuberculosis

Secondary Diagnosis:
1. Hepatitis C
2. Urinary Retention

 
Discharge Condition:
Stable.

 
Discharge Instructions:
You were admitted with recurrent pleural effusions (or 
collection of fluid in your lungs). You were found to have 
pleural tuberculosis.  The interventional pulmonology and 
infectious disease teams saw you while you were in the hospital 
and particpated in your care. You were started on tuberculosis 
medications.  

Please keep all your medical appointments.  

Please take all your medications as prescribed.  *** IT IS VERY 
IMPORTANT FOR YOU TO TAKE ALL YOUR MEDICATIONS AS PRESCRIBED ***
The following medications have been added:
1. Isoniazid ___ mg by mouth daily for tuberculosis
2. Rifampin 600 mg by mouth daily for tuberculosis
3. Pyrazinamide 1500 mg by mouth daily for tuberculosis
4. Ethambutol 1200 mg by mouth daily for tuberculosis
5. Pyridoxine 100 mg by mouth daily for tuberculosis
6. Oxycodone-Acetaminophen ___ tablets by mouth eveyr 4 hours as 
needed for pain
7. Senna and Colace while taking Oxycodone-Acetaminophen to 
prevent constipation

Please have weekly lab work drawn as noted on the prescription.

If you have any of the following symptoms, please call your 
doctor or go to the nearest ED: fever>101, chest pain, shortness 
of breath, coughing up blood, abdominal pain, or any other 
concerning symptoms.
 
Followup Instructions:
___